US07709519B2
A 25 ml portion of THF solution containing 1.2 g of ethyl 3-{3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}acrylate was cooled to −78° C. in a stream of argon gas, 5.5 ml of 1.0 M diisobutylaluminum hydride-Tol solution was gradually added dropwise thereto, and then the mixture was stirred at 0° C. for about 2 hours. This was again cooled to −78° C. the same amount of the reducing agent was added dropwise thereto, and then the mixture was gradually risen to room temperature and stirred for about 40 minutes. The reaction liquid was cooled to −30° C. or lower, small amount of methanol and purified water were added thereto, and the thus formed insoluble matter was removed by filtration through washing with an appropriate amount of ethyl acetate. The organic layer obtained by layer separation operation of the filtrate was washed with water, dried with anhydrous magnesium sulfate and concentrated, and then the thus obtained residue was purified by a silica gel column chromatography to obtain 0.58 g (53%) of 1-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-[3-(3-hydroxyprop-1-en-1-yl)phenyl]propane-1,3-dione as a yellow foam from a ethyl acetate-hexane (1:1) eluate. FA: 433

reactant | ethyl 3-{3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}acrylate | 1.2 g | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)C=CC(=O)OCC)=C1NC2=C(N1)C=CC=C2)=O | C27H20F2N2O4
reactant | diisobutylaluminum hydride | 1.0 M, 5.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-[3-(3-hydroxyprop-1-en-1-yl)phenyl]propane-1,3-dione | 0.58 g, 53% | FC=1C=C(C=C(C1)F)C(C(C(=O)C1=CC(=CC=C1)C=CCO)=C1NC2=C(N1)C=CC=C2)=O | C25H18F2N2O3
